US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline (168 mg, 0.5 mmol), (prepared as described for the starting material in Example 67), potassium carbonate (276 mg, 2.0 mmol) and 5-hydroxy-6-trifluoromethylindole (110 mg, 0.55 mmol) and DMA (4.0 ml) were stirred at 95° C. for 1.5 hours and allowed to cool to ambient temperature. The reaction mixture was filtered and the filtrate evaporated under vacuum. The residue was purified by silica column chromatography eluting with dichloromethane/methanol/0.880 aqueous ammonia (89/10/1) to give a partially purified oil. This oil was further purified by high performance column chromatography on octadecylsilane reverse phase silica eluting with acetonitrile/water/trifluoroacetic acid (60/39.8/0.2) to give an oil which was dissolved in dichloromethane and washed with saturated aqueous sodium hydrogen carbonate solution. The dichloromethane layer was evaporated to give 6-methoxy-7-(3-piperidinopropoxy)-4(6-trifluoromethylindol-5-yloxy)quinazoline (62 mg, 25%).

reactant | 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 0.5 mmol, 168 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C17H22ClN3O2
reactant | potassium carbonate | 2.0 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-hydroxy-6-trifluoromethylindole | 0.55 mmol, 110 mg | OC=1C=C2C=CNC2=CC1C(F)(F)F | C9H6F3NO
reactant | DMA | 4.0 ml | CC(=O)N(C)C | C4H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-methoxy-7-(3-piperidinopropoxy)-4(6-trifluoromethylindol-5-yloxy)quinazoline | 62 mg, 25% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCCCC1)OC=1C=C2C=CNC2=CC1C(F)(F)F | C26H27F3N4O3
